US05942506
1-(4-Acetylaminostyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
4.0 g (12.5 mmoles) of 1-(4-aminostyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine (the compound of Example 68) are suspended in 20 ml of acetic anhydride. The suspension is stirred at room temperature for 1 hour. In the meantime the starting substance gets dissolved, the desired product begins to separate and the reaction mixture becomes thick. The separated product is filtered, washed three times with 25 ml each of diethyl ether and dried at a temperature between 80° C. and 100° C. Thus 4.0 g of the desired product are obtained. In order to purify the crude product it is boiled in 15 ml of 50% ethanol for 15 minutes, cooled, filtered, washed three times with 5 ml each of 50% ethanol and dried at a temperature between 80° C. and 100° C. Thus 3.87 g (85.6%) of the desired product are obtained. M.p.: 218-220° C. (decomp.).

reactant | 1-(4-aminostyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 12.5 mmoles, 4.0 g | NC1=CC=C(C=CC2=NN=C(CC3=C2C=C2C(=C3)OCO2)C)C=C1 | C19H17N3O2
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-Acetylaminostyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | C(C)(=O)NC1=CC=C(C=CC2=NN=C(CC3=C2C=C2C(=C3)OCO2)C)C=C1 | C21H19N3O3
